chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Cl-:2].[Cl:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23]>>[C:4](=[C:5](/[N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23])(\[N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44].[Cl-:1].[Cl:2][H:3],32.49911604605227
[F-:2].[F:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23],40.05213631349943
[Br:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[Cl-:2]>>[Br-:1].[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42].[Cl:2][H:3],25.259738463184807
[Br-:2].[Cl:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22]>>[Br:2][C@@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[Cl-:1],32.96009998088212
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[N:21]([H:22])[H:23].[F-:2]>>[Br-:1].[C:4](=[C:5]([C:11]#[N:12])[N:21]([H:22])[H:23])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[F:2][H:3],16.60094417762714
[Cl-:2].[Cl:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24]>>[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43].[Cl-:1].[Cl:2][H:3],31.00962163412446
[Br-:2].[Br:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24]>>[Br-:1].[Br:2][H:3].[C:4](=[C:5](/[H:11])[C:21]([H:22])([H:23])[H:24])(\[N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44],21.2075016446528
[Br:1][C@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([H:11])[N+:21]([O-:22])[O:23].[Cl-:2]>>[Br-:1].[Cl:2][C@@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([H:11])[N+:21]([O-:22])[O:23],17.124651388576567
[Cl:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Cl-:1].[H:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24],5.02446234546532
[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[H-:2]>>[Br-:1].[C:4](=[C:5]([H:11])[H:21])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44].[H:2][H:3],13.06056852643867
[F:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5](/[H:11])[N+:21]([O-:22])[O:23])(\[H:31])[C:41]([H:42])([H:43])[H:44].[F-:1].[H:2][H:3],10.41917136242823
[Br-:2].[Cl:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N+:11]([O-:12])[O:13])[H:21]>>[Br:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N+:11]([O-:12])[O:13])[H:21].[Cl-:1],27.03107649093053
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]#[N:22]>>[Cl-:1].[Cl:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]#[N:22],24.62093572019532
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24],11.000669498736196
[Cl:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Cl-:1].[F:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]([H:22])([H:23])[H:24],12.838371100738614
[Cl-:2].[F:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22]>>[Cl:2][C@@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[F-:1],39.99290129793097
[F:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[H-:2]>>[F-:1].[H:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23],7.203323722179565
[Br:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Br-:1].[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[H:2][H:3],7.36752710716608
